US05773624
To a suspension of 2-cyano-2-ethoxyimino-acetamide (112.8 g, 0.8 mol) and sodium bicarbonate (134.4 g, 1.6 mol) in water (258 mol), hydroxylamine hydrochloride (61.6 g, 0.88 mol) in water (86 ml) was added dropwise at 80° to 85° C. The mixture was stirred at the same temperature for 3 hrs., and then treated in the same procedure as described in Preparation example 5 to give 2-carboxy-2-ethoxyimino-acetamidoxime (122.5 g) as crystals containing 28.6% of brine. Practical yield: 122.5×0.286=87.5 g. Yield: 62.5%.

reactant | 2-cyano-2-ethoxyimino-acetamide | 0.8 mol, 112.8 g | C(#N)C(C(=O)N)=NOCC | C5H7N3O2
reactant | sodium bicarbonate | 1.6 mol, 134.4 g | C([O-])(O)=O.[Na+]
reactant | hydroxylamine hydrochloride | 0.88 mol, 61.6 g | Cl.NO
solvent | water | 86 ml | O | H2O
solvent | water | 258 mol | O | H2O
product | 2-carboxy-2-ethoxyimino-acetamidoxime | 122.5 g, Yield: 62.5% | C(=O)(O)C(C(N)=NO)=NOCC | C5H9N3O4
